US09126931B2
9-(3-Hydroxy-3-methyl-butyl)-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
9-(3-Hydroxy-3-methyl-but-1-ynyl)-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound E4-2-1, 21.0 mg, 0.0527 mmol) was dissolved in ethanol (15 mL) and N,N-dimethylacetamide (2 mL), added with 10% Pd/C (6.7 mg), and then stirred at room temperature overnight under hydrogen atmosphere. The reaction solution was filtered and concentrated under reduced pressure. The resulting residues were diluted with ethyl acetate, washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting solid was washed with dichloromethane to obtain the title compound (yellow powder, 16.9 mg, 80%).

reactant | 9-(3-Hydroxy-3-methyl-but-1-ynyl)-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.0527 mmol, 21.0 mg | OC(C#CC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1OC)(C)C | C25H22N2O3
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
catalyst | Pd/C | 6.7 mg | [Pd] | Pd
product | 9-(3-Hydroxy-3-methyl-butyl)-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 16.9 mg, 80% | OC(CCC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1OC)(C)C | C25H26N2O3
